US09376422B2
Step 2: Synthesis of 3-(benzylamino)-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-(trifluoromethyl)benzamide
A suspension of N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-fluoro-2-(trifluoro methyl)benzamide (0.80 g, 2.34 mmol) in benzylamine (2.6 ml, 23.4 mmol) was heated in a microwave reactor at 210° C. for 4 h. After cooling distilled water (20 ml) was added to the slurry and 2M HCl was added until the suspension was at pH5. and the mixture was extracted using EtOAc (3×50 ml). The combined organics were washed with pH5 HCl solution (2×50 ml), brine (30 ml), dried using Na2SO4 filtered and evaporated. The resultant oil was purified using a 50 g Isolute silica column eluting with a gradient of 0% to 5% MeOH in DCM to afford the title compound as an off-white solid (313 mg, 29%). LC-MS 94%, m/z=430.2, 1H NMR (500 MHz, Acetone-d6) δ 7.41-7.16 (m, 8H), 6.69 (d, J=8.5 Hz, 1H), 6.50 (d, J=7.4 Hz, 1H), 5.87 (s, 1H), 5.84 (s, 1H), 4.53 (d, J=5.7 Hz, 2H), 4.35 (d, J=5.6 Hz, 2H), 2.28, (d, J=4.0 Hz, 3H), 2.21 (s, 3H).

reactant | N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-fluoro-2-(trifluoro methyl)benzamide | 2.34 mmol, 0.80 g | CC1=C(C(NC(=C1)C)=O)CNC(C1=C(C(=CC=C1)F)C(F)(F)F)=O | C16H14F4N2O2
reactant | benzylamine | 23.4 mmol, 2.6 ml | C(C1=CC=CC=C1)N | C7H9N
product | 3-(benzylamino)-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-(trifluoromethyl)benzamide | 313 mg, 29% | C(C1=CC=CC=C1)NC=1C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C=CC1)C(F)(F)F | C23H22F3N3O2
